US06784323B2
(R)-3-(1-Methyl-1H-indol-3-yl)-hexanal (Table 2, entry 2):
Prepared according to the general procedure from 2-hexenal (174 μL, 1.50 mmol), 1-methyl-1H-indole (64 μL, 0.50 mmol), TFA (7.7 μL, 0.10 mmol) and (2S,5S)-5-benzyl-2-tert-butyl-3-methyl-imidazolidin-4-one (24.6 mg, 0.100 mmol) in CH2Cl2 (0.85 mL) and isopropanol (0.15 mL) at −60° C. for 6 h to provide, after silica gel chromatography (5:95 EtOAc/hexanes), the title compound as a colorless oil (92 mg, 80% yield, 93% ee). IR (film) 2959, 2923, 2870, 1720, 1483, 1470, 1425, 1376, 1327, 1244, 1159, 1132, 1016, 734 cm−1; 1H NMR (300 MHz, CDCl3) δ 9.71 (dd, J=2.1, 2.1 Hz, 1H, CHO), 7.67 (d, J=8.4 Hz, 1H, ArH), 7.35-7.24 (m, 2H, ArH), 7.12 (ddd, J=1.5, 7.2, 8.1 Hz, 1H, ArH), 6.87 (s, 1H, NCH), 3.76 (s, 3H, NCH3), 3.55 (m, 1H, ArCH), 2.83 (m, 2H, CH2CO), 1.79 (m, 2H, CHCH2CH2), 1.34 (dt, J=7.2, 22.8 Hz, 2H, CHCH2CH3), 0.92 (dd, J=7.2, 7.2 Hz, 3H, CH2CH3); 13C NMR (75 MHz, CDCl3) δ 203.0, 137.2, 127.0, 126.0, 121.6, 119.2, 118.7, 117.0, 109.4, 49.7, 38.5, 32.8, 31.4, 20.8, 14.2; HRMS (CI) exact mass calcd for (C15H19NO) requires m/z 229.1467, found m/z 229.1464. [α]D=−1.7 (c=1.0, CHCl3). The enantiomeric ratio was determined by HPLC analysis of the alcohol, obtained by NaBH4 reduction of the aldehyde, using a Chiracel AS and AS guard column (2:98 ethanol/hexanes, 1 mL/min); S isomer tr=16.1 min and R isomer tr=18.1 min.

reactant | 2-hexenal | 1.50 mmol, 174 μL | C(C=CCCC)=O | C6H10O
reactant | 1-methyl-1H-indole | 0.50 mmol, 64 μL | CN1C=CC2=CC=CC=C12 | C9H9N
reactant | TFA | 0.10 mmol, 7.7 μL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (2S,5S)-5-benzyl-2-tert-butyl-3-methyl-imidazolidin-4-one | 0.100 mmol, 24.6 mg | C(C1=CC=CC=C1)[C@H]1C(N([C@H](N1)C(C)(C)C)C)=O | C15H22N2O
solvent | CH2Cl2 | 0.85 mL | C(Cl)Cl | CH2Cl2
solvent | isopropanol | 0.15 mL | C(C)(C)O | C3H8O
product | (R)-3-(1-Methyl-1H-indol-3-yl)-hexanal | 92 mg, 80% yield | CN1C=C(C2=CC=CC=C12)[C@@H](CC=O)CCC | C15H19NO
